US05100902
STAGE A: 2-Cyano-3-(2,3-dihydro-5-benzofuranyl)acrylic acid
39.5 g of 2,3-dihydro-5-benzofurancarbaldehyde (prepared according to the process described in J. Org. Chem. (1984), 49, p. 409), 22.7 g of 2-cyanoacetic acid and 4.08 g of ammonium acetate are mixed in 37 ml of pyridine and 210 ml of benzene. The mixture is brought to reflux for 6 hours 30 minutes. The precipitate formed is isolated and then suspended in 600 ml of 6N hydrochloric acid. The solid isolated is filtered off and washed with water and dried in the air.

reactant | 2,3-dihydro-5-benzofurancarbaldehyde | 39.5 g | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
reactant | 2-cyanoacetic acid | 22.7 g | C(#N)CC(=O)O | C3H3NO2
reactant | ammonium acetate | 4.08 g | C(C)(=O)[O-].[NH4+]
solvent | pyridine | 37 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 210 ml | C1=CC=CC=C1 | C6H6
solvent | hydrochloric acid | 6N, 600 ml | Cl | ClH
product | 2-Cyano-3-(2,3-dihydro-5-benzofuranyl)acrylic acid | C(#N)C(C(=O)O)=CC=1C=CC2=C(CCO2)C1 | C12H9NO3
